### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph): star graphs (and more) are bipartite

### PR DESCRIPTION
**Pull request by SnirBroshi**
`IsBipartite`/`IsBipartiteWith`/`IsCompleteBetween`/`IsCompleteMultipartite` for `completeBipartiteGraph`/`pathGraph`/`cycleGraph`/`⊥` (when applicable)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Star.lean
Comment (vlad902) [inline Mathlib/Combinatorics/SimpleGraph/Star.lean:61]: Since you've added `(r : V)` above, it would be nice to get rid of these explicit `(r : V)`s here and elsewhere in this file.

File: Mathlib/Combinatorics/SimpleGraph/Star.lean [hunk 1]
```diff
@@ -74,6 +75,24 @@ lemma isAcyclic_starGraph (r : V) : (starGraph r).IsAcyclic := by
...
   ⟨connected_starGraph r, isAcyclic_starGraph r⟩
 
+/-- Bicoloring of a star graph -/
+def Coloring.starGraphBool [DecidableEq V] : (starGraph r).Coloring Bool where
+  toFun v := v = r
+  map_rel' := by grind [top_adj]
+
+theorem IsBipartite.starGraph : (starGraph r).IsBipartite := by
+  classical
+  simpa using Coloring.starGraphBool r |>.colorable
```
Comment (vlad902) [inline Mathlib/Combinatorics/SimpleGraph/Star.lean:85]: Minor point, but this could be a corollary for the lemma below, and then you don't require the explicit coloring above at all. (I am not sure how often these explicit colorings are useful, but perhaps I am missing something.)
```suggestion
theorem IsBipartite.starGraph : (starGraph r).IsBipartite :=
  (IsBipartiteWith.starGraph _).isBipartite
```

File: Mathlib/Combinatorics/SimpleGraph/Star.lean
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Star.lean:61]: I agree but probably for a followup; I often introduce `variable`s but cleaning up the entire file obscures the diff

File: Mathlib/Combinatorics/SimpleGraph/Star.lean (hunk 1 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Star.lean:85]: Yeah I know, I kinda did it this way as an excuse to keep the explicit coloring since I think it's useful

**Comment by b-mehta** [comment]
Thanks!

bors merge
